US05242911
3-Oxabicyclo[3.2.2]nonan-2,4-dione
A solution of 2.9 g of cis-cyclohexane-1,4-dicarboxylic acid in 25 ml of acetic anhydride was heated under reflux for 2.5 hours. The solvent was removed by evaporation in vacuo, and the residue was triturated under diethyl ether several times. The residue was dried under high vacuum to give 2.5 g (97% yield) of the title compound.

reactant | cis-cyclohexane-1,4-dicarboxylic acid | 2.9 g | [C@H]1(CC[C@@H](CC1)C(=O)O)C(=O)O | C8H12O4
solvent | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Oxabicyclo[3.2.2]nonan-2,4-dione | 2.5 g, 97% yield | C12C(OC(C(CC1)CC2)=O)=O | C8H10O3
